US03971819
Ethyl 3-benzylamino-5-sulphamyl-4-(m-toluidino)-benzoate
A mixture of 3-amino-5-sulphamyl-4-(m-toluidino)-benzoic acid (1.5 g), benzyl bromide (2.5 g), and anhydrous ethanol (50 ml) was heated under reflux for 10 hours. The resulting solution was cooled, and the precipitated ethyl 3-benzylamino-5-sulphamyl-4-(m-toluidino)-benzoate was collected by suction. After recrystallization from ethanol, the compound had a melting point of 169-170°C.

reactant | 3-amino-5-sulphamyl-4-(m-toluidino)-benzoic acid | 1.5 g | NC=1C=C(C(=O)O)C=C(C1NC=1C=C(C=CC1)C)S(N)(=O)=O | C14H15N3O4S
reactant | benzyl bromide | 2.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3-benzylamino-5-sulphamyl-4-(m-toluidino)-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1NC=1C=C(C=CC1)C)S(N)(=O)=O | C23H25N3O4S
